US07985753B2
N-[2-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-ethyl]-acetamide
In close analogy to the procedure described above, 2-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-ethylamine is reacted with acetic anhydride to provide the title compound.

reactant | 2-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-ethylamine | O1CCOC2=C1C=CC=C2CCN | C10H13NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-ethyl]-acetamide | O1CCOC2=C1C=CC=C2CCNC(C)=O | C12H15NO3
